US06124323
4-((5,6,7,8-Tetrahydro-2-naphthyl)methyl)-1-(2-(4-hydroxyphenoxy) ethyl)piperidine hydrochloride
The title compound was prepared from 4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride (250 mg, 940 μmol), 2-(4-hydroxyphenoxy)ethyl bromide (204 mg, 940 μmol) and NaHCO3 (162 mg, 1.93 mmol) as a pale beige solid (152 mg): 1H NMR (CD3OD) 1.55-1.65 (m, 2H), 1.70-1.96 (m, 7H), 2.54 (d, J=6.3 Hz, 2H), 2.62-2.78 (m, 4H), 3.05 (t, J=12 Hz, 2H), 3.43-3.68 (m, 4H), 4.25 (t, J=4.8 Hz, 2H), 6.72 (d, J=9.0 Hz, 2H), 6.80-6.90 (m, 4H), 6.95 (d, J=7.5 Hz, 1H); Anal. Calcd for C24H32ClNO2 ·H2O: C, 68.64; H, 8.16; N, 3.33. Found: C, 68.39; H, 7.99; N, 3.36.

reactant | 4-((5,6,7,8-tetrahydro-2-naphthyl)methyl)piperidine hydrochloride | 940 μmol, 250 mg | Cl.C1=C(C=CC=2CCCCC12)CC1CCNCC1
reactant | 2-(4-hydroxyphenoxy)ethyl bromide | 940 μmol, 204 mg | OC1=CC=C(OCCBr)C=C1 | C8H9BrO2
reactant | NaHCO3 | 1.93 mmol, 162 mg | C(=O)(O)[O-].[Na+]
product | 4-((5,6,7,8-Tetrahydro-2-naphthyl)methyl)-1-(2-(4-hydroxyphenoxy) ethyl)piperidine hydrochloride | Cl.C1=C(C=CC=2CCCCC12)CC1CCN(CC1)CCOC1=CC=C(C=C1)O | InChI=1S/C24H31NO2.ClH/c26-23-7-9-24(10-8-23)27-16-15-25-13-11-19(12-14-25)17-20-5-6-21-3-1-2-4-22(21)18-20;/h5-10,18-19,26H,1-4,11-17H2;1H
